US08022062B2
4-(2,2,2-Trifluoro-1,1-dimethyl-ethoxy)-benzonitrile:
Add 2-trifluoromethyl-2-propanol (3.4 g, 27 mmol) slowly to a slurry of sodium hydride (0.6 g, 60% in mineral oil, washed with hexane) in HMPA (5 mL) under nitrogen. Stir the slurry for 15 min and add a solution of 4-nitrobenzonitrile (2.0 g, 13.5 mmol) in HMPA (10 mL). Stir the resulting purple slurry at ambient temperature for 16 h, dilute with diethyl ether (100 mL) and wash with 5% aqueous HCl (30 mL). Separate the layers and extract the aqueous layer with diethyl ether (2×50 mL). Combine the organic extracts and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1 to 1:1) to obtain the desired intermediate (780 mg, 25%). GC-MS m/z: 229 (M+).

reactant | 2-trifluoromethyl-2-propanol | 27 mmol, 3.4 g | FC(C(C)(C)O)(F)F | C4H7F3O
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | 4-nitrobenzonitrile | 13.5 mmol, 2.0 g | [N+](=O)([O-])C1=CC=C(C#N)C=C1 | C7H4N2O2
solvent | HMPA | 5 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | HMPA | 10 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 4-(2,2,2-Trifluoro-1,1-dimethyl-ethoxy)-benzonitrile | 780 mg, 25% | FC(C(OC1=CC=C(C#N)C=C1)(C)C)(F)F | C11H10F3NO
